US08426420B2
iii) 5-((S)-1-Benzyl-pyrrolidin-2-yl)-3-methyl-isoxazole
To a solution of 878 mg 1-((S)-1-Benzyl-pyrrolidin-2-yl)-butane-1,3-dione 3-oxime in 50 ml dichloromethane were added 0.52 ml methanesulfonyl chloride and 0.94 ml triethylamine at 0° C. The solution was allowed to warm to RT within 5 h. The reaction mixture was extracted with 1 M HCl (3×), the aqueous extracts were neutralized with solid NaHCO3 and extracted with dichloromethane (3×) to give the crude product which was purified by chromatography on silica using ethyl acetate/heptane 1/2 as eluent.

reactant | 1-((S)-1-Benzyl-pyrrolidin-2-yl)-butane-1,3-dione 3-oxime | 878 mg | C(C1=CC=CC=C1)N1[C@@H](CCC1)C(CC(C)=NO)=O | C15H20N2O2
reactant | methanesulfonyl chloride | 0.52 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.94 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-((S)-1-Benzyl-pyrrolidin-2-yl)-3-methyl-isoxazole | C(C1=CC=CC=C1)N1[C@@H](CCC1)C1=CC(=NO1)C | C15H18N2O
